Name:  ___                   Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: MEDICINE
 
Allergies: 
Meperidine
 
Attending: ___.
 
Chief Complaint:
dysuria, fatigue, pre-syncope, palpitations, "a fib when I get 
an infection"

 
Major Surgical or Invasive Procedure:
None

 
History of Present Illness:
___ PMH afib requiring cardioversion, most recent in ___ on 
coumadin and flecanide, remote hx A flutter, hx 
tachycardia-induced cardiomyopathy (EF ___ 60%), rate well 
controlled on flecanide, HTN, presented with dysuria for the 
past 4 days associated with R sided flank pain. Also noted lower
abdominal pain relieved by urination. Denies fever, rigors, or
chills. 

She reports worsening of a fib due to the infection. Per patient
stress and infection exacerbates her a fib. The fatigue she had
for 1 day about ___ days ago but since has resolved with rest.
Her a fib symptoms are palpitations, lightheadedness, fatigue 
and
heavy breathing worse with exertion which is improved with rest.
She also noted 1 episode of pre-syncope on exertion with 
tingling
sensation. Denies chest pain. Pt also reports history of
bradycardia with rates as low as 25. 

Has been on amiodarone in the past which was discontinued in
favor of flecainide for long-term use. 
 
In the ED initial vitals were:  98.1 115/90 34 18 100%RA FSBG 88 


Labs/studies notable for:  
Normal CBC and chemistry-10 panel on admission and this morning
___ 23.6/2.2, normal PTT
troponin <0.01 x1
UA with negative HCG, hazy, large leuks, moderate blood, 100
protein, few bacteria and 5 epis

EP was consulted: "Per report, HR in triage was 34, but no
tracing or ECG. Since, no bradycardia. Here, vitals stable. HRs
in ___. BP stable."
 
Patient was given:  
 IV CefTRIAXone, PO/NG Metoprolol Tartrate 100 mg, PO Flecainide
Acetate 100 mg, PO/NG Warfarin 5 mg,  PO/NG Metoprolol Tartrate
100 mg, PO/NG Lisinopril 20 mg, PO/NG Spironolactone 12.5 mg, PO
Flecainide Acetate 100 mg, PO/NG Acetaminophen 650 mg

Vitals on transfer:  98.3 HR 98 BP 117/89  RR22 98% RA 

On the floor patient reports feeling well, with no urinary
symptoms, no globus sensation, or back pain. Says that her
dysuria, abdominal pain, flank pain have resolved. Denies
lightheadedness, dizziness, palpitations, chest pain, SOB,
nausea, or abdominal pain. She did note vaginal itching which 
she
attributes to antibiotics. She notes that she usually gets yeast
infections after antibiotics.

REVIEW OF SYSTEMS:  
Cardiac review of systems is notable for absence of chest pain,
paroxysmal nocturnal dyspnea, or orthopnea.

On further review of systems, denies any prior history of deep
venous thrombosis, pulmonary embolism, bleeding at the time of
surgery, myalgias, joint pains, cough, hemoptysis, black stools
or red stools. Denies exertional buttock or calf pain. Denies
recent fevers, chills or rigors. No constipation or diarrhea, no
headaches, or abdominal pain. All of the other review of systems
were negative.  
 
Past Medical History:
PAST MEDICAL HISTORY:  
=====================
1. CARDIAC RISK FACTORS    
- Hypertension  - YES- with negative workup for secondary
hypertension
2. CARDIAC HISTORY  
- CABG: None  
- PERCUTANEOUS CORONARY INTERVENTIONS: None  
- PACING/ICD: None  
3. OTHER PAST MEDICAL HISTORY  
- Persistent atrial fibrillation, initially diagnosed in ___.
Course obtained from EP note ___, summarized below:
Previously on amiodarone which restored sinus rhythm and
essentially normalized EF. Stopped amiodarone ___ due to
young age without recurrence of AF. AF recurred in ___ with
failed cardioversion off antiarrythmic. Restarted amiodarone 
with
cardioversion which resumed sinus rhythm. Most recent
cardioversion in ___. Transitioned to flecainide in ___,
tolerating well.
- H/o tachycardia-induced cardiomyopathy with subsequent
normalization of EF. 

PAST SURGICAL HISTORY: Cholecystectomy. 
She had a right congenital cataract removed and right shoulder
arthroscopic surgery in ___.

 
Social History:
___
Family History:
No family history of early MI, arrhythmia, cardiomyopathies, or
sudden cardiac death.  

She has a son with type 2 diabetes.  He is ___
pounds.  Her maternal grandmother and maternal uncle passed away
with colon cancer.  Her mother was diagnosed with coronary 
artery
disease at about ___, also has a history of Afib and cervical ca.
Many family members on dialysis- ___ ___. Mother has hx
of a fib.

 
Physical Exam:
ADMISSION PHYSICAL EXAM:
=========================
VITALS:  98.4 PO 151 / 85 L Sitting ___ ra 
GENERAL: Well-developed, well-nourished. NAD. Mood, affect
appropriate.
HEENT: NCAT. Sclera anicteric. Pupil L 7mm with irrecular shape 
but reactive to light, R pupil 4mm round, reactive to light, 
EOMI. Conjunctiva pink, no pallor or cyanosis of the oral 
mucosa. No xanthelasma.  
NECK: Supple, mobile thyroid with no palpable nodules or
thyromegaly, no JVP  
CARDIAC: Tachycardic, irregularly irregular. No
murmurs/rubs/gallops. No thrills, lifts.  
LUNGS: No chest wall deformities, scoliosis or kyphosis. Resp
were unlabored, no accessory muscle use. No crackles, wheezes or
rhonchi.  
ABDOMEN: Soft, NTND. No HSM or tenderness.
GU: No CVA tenderness bilaterally.  
EXTREMITIES: No c/c/e. No femoral bruits.  
SKIN: No stasis dermatitis, ulcers, scars, or xanthomas.  
PULSES: Distal pulses palpable and symmetric  

DISCHARGE PHYSICAL EXAM
===========================
VITALS: 98.4 PO ___ 20 97 RA 
GENERAL:  NAD. Lying comfortably in bed
HEENT: NCAT, MMM, oropharynx clear
NECK: Supple
CARDIAC: RRR. Normal S1, S2, no m/r/g 
LUNGS: CTAB
ABDOMEN: Soft, NTND.
EXTREMITIES: No c/c/e. 
 
Pertinent Results:
ADMISSION LABS
=====================
___ 07:25PM BLOOD WBC-7.6# RBC-4.90 Hgb-14.0 Hct-42.9 
MCV-88 MCH-28.6 MCHC-32.6 RDW-13.6 RDWSD-43.4 Plt ___
___ 07:25PM BLOOD Neuts-45.2 ___ Monos-9.7 Eos-0.8* 
Baso-0.4 Im ___ AbsNeut-3.45 AbsLymp-3.33 AbsMono-0.74 
AbsEos-0.06 AbsBaso-0.03
___ 07:25PM BLOOD ___ PTT-34.9 ___
___ 07:25PM BLOOD Plt ___

PERTINENT LABS
=====================
___ 08:35PM URINE Color-Yellow Appear-Hazy* Sp ___
___ 08:35PM URINE Blood-MOD* Nitrite-NEG Protein-100* 
Glucose-NEG Ketone-NEG Bilirub-NEG Urobiln-NEG pH-6.0 Leuks-LG*
___ 08:35PM URINE RBC-63* WBC-177* Bacteri-FEW* Yeast-NONE 
Epi-5
___ 07:45AM BLOOD TSH-1.3

MICROBIOLOGY
=====================
___ 8:00 pm BLOOD CULTURE X2 (Pending)
   Blood Culture, Routine (Pending)

___ 8:35 pm URINE

                            **FINAL REPORT ___

   URINE CULTURE (Final ___: 
      ENTEROBACTER AEROGENES.    >100,000 CFU/mL. 
         This organism may develop resistance to third 
generation
         cephalosporins during prolonged therapy. Therefore, 
isolates that
         are initially susceptible may become resistant within 
three to
         four days after initiation of therapy.  For serious 
infections,
         repeat culture and sensitivity testing may therefore be 
warranted
         if third generation cephalosporins were used. 

                              SENSITIVITIES: MIC expressed in 
MCG/ML
                      
_________________________________________________________
                             ENTEROBACTER AEROGENES
                             |   
CEFEPIME--------------   <=1 S
CEFTAZIDIME-----------   <=1 S
CEFTRIAXONE-----------   <=1 S
CIPROFLOXACIN---------<=0.25 S
GENTAMICIN------------   <=1 S
MEROPENEM-------------<=0.25 S
NITROFURANTOIN--------    64 I
PIPERACILLIN/TAZO-----   <=4 S
TOBRAMYCIN------------   <=1 S
TRIMETHOPRIM/SULFA----   <=1 S

IMAGING
======================
NONE

DISCHARGE LABS
======================

___ 07:15AM BLOOD WBC-4.3 RBC-4.68 Hgb-13.3 Hct-40.8 MCV-87 
MCH-28.4 MCHC-32.6 RDW-13.4 RDWSD-42.5 Plt ___
___ 07:15AM BLOOD ___ PTT-33.7 ___
___ 07:15AM BLOOD Glucose-98 UreaN-17 Creat-1.0 Na-141 
K-5.1 Cl-102 HCO3-27 AnGap-12
___ 07:15AM BLOOD Calcium-8.9 Phos-4.1 Mg-2.___ year-old female with a history of persistent atrial 
fibrillation requiring cardioversion in ___, history of 
tachycardia-induced cardiomyopathy now resolved with most recent 
EF of 60% in ___, remote history of atrial flutter, who was 
admitted for atrial tachycardia likely triggered by acute 
cystitis.

ACUTE ISSUES
======================
# Acute uncomplicated cystitis
Patient presented with several days of dysuria and R sided flank 
pain. Preliminary urine culture was positive for gram negative 
rods. She completed a 3 day course of IV ceftriaxone with 
symptom resolution. Patient then reported vaginal pruritis, with 
improvement after clotrimazole 1% vaginal cream.

# Atrial tachycardia. 
Patient presented with fatigue, palpitations, and 1 episode of 
pre-syncope. EKG and telemetry revealed episodes of atrial 
tachycardia with rates to 130's in between normal sinus rhythm 
with rates in the 70-80's. TSH WNL. Symptoms resolved with 
improvement in fatigue and palpitations and she tolerated stairs 
and ambulation. Short acting diltiazem was started however with 
no improvement in rate control and this was discontinued at EP's 
recommendation. Home metoprolol succinate was increased from 
200mg to 250mg daily. Home flecanide was increased to 150 twice 
daily per electrophysiology recommendation. Plan for outpatient 
___ of Hearts monitoring on discharge and exercise tolerance 
test to evaluate for QRS widening in 2 weeks.

Patient was continue on home warfarin dose with discharge INR of 
2.0. Patient to recheck INR on ___.

TRANSITIONAL ISSUES
========================
[] Continue vaginal anti-fungal cream ("Clotrimazole 1% Vaginal 
Cream), last day ___.
[] INR to be checked on ___.
[] Follow up with Dr. ___ in ___ as 
previously arranged.
[] Called ___ lab prior to discharge for patient to have ___ 
of Heart monitoring as an outpatient x2 weeks. She is to call 
___ to arrange a time for device pick-up.
[] Ordered ETT for 2 weeks from discharge to assess for QRS 
widening. Please ensure this is scheduled at PCP ___.
[] CODE: Full
[] CONTACT: HCP: Daughter ___ ___
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Warfarin 10 mg PO 2X/WEEK (MO,FR) 
2. Warfarin 15 mg PO 5X/WEEK (___) 
3. Lisinopril 20 mg PO DAILY 
4. Metoprolol Succinate XL 200 mg PO DAILY 
5. Flecainide Acetate 100 mg PO Q12H 
6. Spironolactone 12.5 mg PO DAILY 

 
Discharge Medications:
1.  Clotrimazole 1% Vaginal Cream 1 Appl VG QHS Duration: 7 Days 

RX *clotrimazole 1 % apply to affected area nightly Disp #*45 
Tube Refills:*0 
2.  Flecainide Acetate 150 mg PO Q12H 
RX *flecainide 150 mg 1 tablet(s) by mouth twice daily Disp #*60 
Tablet Refills:*1 
3.  Metoprolol Succinate XL 250 mg PO DAILY  
4.  Lisinopril 20 mg PO DAILY  
5.  Spironolactone 12.5 mg PO DAILY  
6.  Warfarin 10 mg PO 2X/WEEK (MO,FR)  
7.  Warfarin 15 mg PO 5X/WEEK (___)  

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
acute uncomplicated cystitis
Atrial tachycardia

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear Ms. ___,  

It was a pleasure taking care of you at the ___ 
___!  

Why was I admitted to the hospital?  
You were admitted because you had burning on urination, fatigue, 
lightheadedness, and palpitations, and your heart rate was 
abnormally high.

What happened while I was in the hospital?  

While you were here you were seen by the electrophysiogists, who 
are specialists in abnormal heart rates. We increased your dose 
of FLECANIDE and METOPROLOL SUCCINATE, which help regulate your 
abnormal heart rate. We also gave you antibiotics to treat your 
urinary tract infection. You were also started on anti-fungal 
vaginal cream "CLOTRIMAZOLE" for itching.

What should I do after leaving the hospital?  
- Please take your medications as listed in discharge summary 
and follow up at the listed appointments.
- Please continue vaginal anti-fungal cream ("Clotrimazole 1% 
Vaginal Cream), last day ___.
- Please check your INR on ___.
- Please follow up with Dr. ___ in ___.
- You will need to call the ___ lab at ___ to set up 
your ___ of Hearts monitoring device.
- You will need to undergo an exercise stress test in two weeks. 
Your primary care doctor can help arrange this.
 

Thank you for allowing us to be involved in your care, we wish 
you all the best!  

Your ___ Healthcare Team  

 
Followup Instructions:
___